US04433152
A mixture of 13.0 g of o-methylisourea sulfate and 15.7 g of 4-piperidinebutyric acid hydrochloride was dissolved with stirring and ice-cooling in 60 ml of a 4 N sodium hydroxide solution. To the solution was added 20 ml of water, and the resulting mixture was stirred at room temperature for 64 hours. The crystals obtained were washed with 300 ml of ice-water and dehydrated with acetone and further washed with ether. The crystals were dissolved in 90 ml of a 1 N hydrochloric acid solution, and the solution was dried under reduced pressure. The residue was washed with acetone and then with ether and air-dried to obtain 16.3 g (yield: 86.7%) of 1-amidino-4-piperidinebutyrate hydrochloride as colorless crystals having a melting point of 178° to 180° C.

reactant | o-methylisourea sulfate | 13.0 g | COC(=N)N.OS(=O)(=O)O
reactant | 4-piperidinebutyric acid hydrochloride | 15.7 g | Cl.N1CCC(CC1)CCCC(=O)O
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | 1-amidino-4-piperidinebutyrate hydrochloride | 16.3 g, yield: 86.7% | Cl.C(N)(=N)N1CCC(CC1)CCCC(=O)O | InChI=1S/C10H19N3O2.ClH/c11-10(12)13-6-4-8(5-7-13)2-1-3-9(14)15;/h8H,1-7H2,(H3,11,12)(H,14,15);1H
